US04795812
To 1.5 g (7.3 mM) of 4-chloro-6-phenyl-2-pyrimidinamine is added 40 ml of glacial acetic acid and 1.05 g of N-chlorosuccinimide. The reaction is stirred at ambient temperature (-20° C.) for 18 hours. The reaction mixture is evaporated to dryness, dissolved in acetone and 10.0 g of silica gel added and the mixture evaporated to a powder under vacuum. The powder is chromatographed on 50 g silica gel and eluted with 35% ethyl acetate/hexane. A fraction containing material with a TLC r.f. of 0.7 35% ethylacetate/hexane is collected and evaporated to dryness, recrystallized from acetone/Skellysolve B (1:10), evaporated to dryness(?) to yield 0.90 g of 4,5-dichloro-6-phenyl-2-pyrimidinamine.

reactant | 4-chloro-6-phenyl-2-pyrimidinamine | 7.3 mM, 1.5 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)N | C10H8ClN3
reactant | N-chlorosuccinimide | 1.05 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4,5-dichloro-6-phenyl-2-pyrimidinamine | 0.90 g | ClC1=NC(=NC(=C1Cl)C1=CC=CC=C1)N | C10H7Cl2N3
